US05039686
1,3 dibromobutane (10.8 g, 0.05 mol) and potassium phthalimide (9.25 g, 0.05 mol) were added to dry N,N dimethylformamide (100 ml) and the resulting mixture stirred at ambient temperature (20° C.) overnight. The resulting mixture was filtered to remove any solid and the solvent removed from the filtrate to give a colourless oil. The product, N-(3-bromobutyl)phthalimide, was isolated from the oil by flash chromatography on a silica gel column using silica gel, 230 to 400 US mesh (0.062 mm to 0.037 mm) eluted with 2% methanol in dichloromethane as a brown solid in a yield of 7.9 g (55.7%).

reactant | 1,3 dibromobutane | 0.05 mol, 10.8 g | BrCCC(C)Br | C4H8Br2
reactant | potassium phthalimide | 0.05 mol, 9.25 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(3-bromobutyl)phthalimide | BrC(CCN1C(C=2C(C1=O)=CC=CC2)=O)C | C12H12BrNO2
